US08633186B2
1-ethyl-3-(1-hydroxy-2-methylpropan-2-yl)urea
Prepared as in Example 227d from 2-amino-2-methylpropan-1-ol and ethyl isocyanate in 94% yield. MS 161 (MH+).

reactant | 2-amino-2-methylpropan-1-ol | NC(CO)(C)C | C4H11NO
reactant | ethyl isocyanate | C(C)N=C=O | C3H5NO
product | 1-ethyl-3-(1-hydroxy-2-methylpropan-2-yl)urea | 94% yield | C(C)NC(=O)NC(CO)(C)C | C7H16N2O2
